data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[N:1]1([c:6]2[c:35]([CH3:12])[cH:30][c:21]([CH3:17])[cH:33][c:38]2[CH3:15])[CH:29]=[CH:28][N:2]([c:7]2[c:36]([CH3:13])[cH:31][c:22]([CH3:18])[cH:32][c:37]2[CH3:14])[C:39]1=[CH2:25].[cH:3]1[cH:11][cH:4][c:5]2[c:16]([o+:8][c:10](-[c:27]3[cH:23][cH:19][cH:34][cH:20][cH:24]3)[cH:9][cH:26]2)[cH:40]1>>[n+:1]1(-[c:6]2[c:35]([CH3:12])[cH:30][c:21]([CH3:17])[cH:33][c:38]2[CH3:15])[cH:29][cH:28][n:2](-[c:7]2[c:36]([CH3:13])[cH:31][c:22]([CH3:18])[cH:32][c:37]2[CH3:14])[c:39]1[CH2:25][CH:26]1[c:5]2[cH:4][cH:11][cH:3][cH:40][c:16]2[O:8][C:10]([c:27]2[cH:23][cH:19][cH:34][cH:20][cH:24]2)=[CH:9]1", "epd": [["LP-/Pi+", [1], [39, 1]], ["Pi-/Sigma+", [25, 39], [25, 26]], ["Pi-/Pi+", [26, 9], [9, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[O-:1][C:25](=[CH:19][c:4]1[cH:13][cH:22][n:5][cH:23][cH:14]1)[O:26][CH2:27][CH3:9].[cH:2]1[cH:11][cH:3][c:6]2[c:12]([o+:7][c:10](-[c:21]3[cH:17][cH:15][cH:24][cH:16][cH:18]3)[cH:8][cH:20]2)[cH:28]1>>[O:1]=[C:25]([CH:19]([c:4]1[cH:13][cH:22][n:5][cH:23][cH:14]1)[CH:20]1[c:6]2[cH:3][cH:11][cH:2][cH:28][c:12]2[O:7][C:10]([c:21]2[cH:17][cH:15][cH:24][cH:16][cH:18]2)=[CH:8]1)[O:26][CH2:27][CH3:9]", "epd": [["LP-/Pi+", [1], [25, 1]], ["Pi-/Sigma+", [19, 25], [19, 20]], ["Pi-/Pi+", [20, 8], [8, 10]], ["Pi-/LP+", [10, 7], [7]]]}
{"reaction_name": "Acetal exchange", "rsmi": "[CH3:2][O:8][CH:6]([CH3:7])[O:9][CH3:3].[O:1]([CH2:5][CH3:4])[H:10]>>[CH3:2][O:8][H:10].[O:1]([CH2:5][CH3:4])[CH:6]([CH3:7])[O:9][CH3:3]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [6, 8], [8]], ["LP-/Sigma+", [8], [8, 10]], ["Sigma-/LP+", [1, 10], [1]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:2]([N+:9]12[CH2:15][CH2:21][N+:12]([F:8])([CH2:22][CH2:16]1)[CH2:23][CH2:17]2)[Cl:27].[cH:1]1[cH:13][cH:19][c:11]([B-:3]2([CH2:18][CH:10]=[CH2:26])[O:28][C:24]([CH3:4])([CH3:5])[C:25]([CH3:6])([CH3:7])[O:29]2)[cH:20][cH:14]1>>[CH2:2]([N+:9]12[CH2:15][CH2:21][N:12]([CH2:22][CH2:16]1)[CH2:23][CH2:17]2)[Cl:27].[cH:1]1[cH:13][cH:19][c:11]([B-:3]2([CH2:18][CH+:10][CH2:26][F:8])[O:28][C:24]([CH3:4])([CH3:5])[C:25]([CH3:6])([CH3:7])[O:29]2)[cH:20][cH:14]1", "epd": [["Pi-/Sigma+", [26, 10], [26, 8]], ["Sigma-/LP+", [8, 12], [12]]]}
{"reaction_name": "C-Nitrosation of enolates", "rsmi": "[CH2-:1][C:6]([CH3:2])=[O:5].[O:3]=[N+:4]>>[CH2:1]([N:4]=[O:3])[C:6]([CH3:2])=[O:5]", "epd": [["LP-/Sigma+", [1], [1, 4]]]}
{"reaction_name": "AlCl3 arene-complex formation", "rsmi": "[Cl:3][Al:11]([Cl:4])[Cl:5].[cH:1]1[c:7]([Cl:8])[cH:2][cH:10][cH:6][cH:9]1>>[cH:1]1[c:7]([Cl+:8][Al-:11]([Cl:3])([Cl:4])[Cl:5])[cH:2][cH:10][cH:6][cH:9]1", "epd": [["LP-/Sigma+", [8], [8, 11]]]}
{"reaction_name": "Still–Gennari olefination", "rsmi": "[O:1]([P:6]([O:2][CH3:15])(=[O:3])[CH2-:5])[CH3:14].[O:4]([CH3:9])[C:11]([CH2:12][C:8]([H:7])=[O:10])=[O:13]>>[O:1]([P:6]([O:2][CH3:15])(=[O:3])[O-:10])[CH3:14].[O:4]([CH3:9])[C:11]([CH2:12][C:8](=[CH2:5])[H:7])=[O:13]", "epd": [["LP-/Sigma+", [5], [5, 8]], ["Sigma-/LP+", [8, 10], [10]], ["LP-/Sigma+", [10], [6, 10]], ["Sigma-/LP+", [5, 6], [5]], ["LP-/Pi+", [5], [5, 8]], ["Pi-/LP+", [8, 10], [10]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[c:1]1([P:14]([c:2]2[cH:9][cH:24][cH:5][cH:25][cH:10]2)([c:3]2[cH:11][cH:26][cH:6][cH:27][cH:12]2)=[CH:34][C:21]([O:15][CH2:13][CH3:39])=[O:20])[cH:7][cH:22][cH:4][cH:23][cH:8]1.[cH:16]1[c:28]([CH+:42][c:29]2[cH:17][c:32]([F:37])[cH:41][c:33]([F:38])[cH:18]2)[cH:19][c:30]([F:35])[cH:40][c:31]1[F:36]>>[c:1]1([P+:14]([c:2]2[cH:9][cH:24][cH:5][cH:25][cH:10]2)([c:3]2[cH:11][cH:26][cH:6][cH:27][cH:12]2)[CH:34]([C:21]([O:15][CH2:13][CH3:39])=[O:20])[CH:42]([c:28]2[cH:16][c:31]([F:36])[cH:40][c:30]([F:35])[cH:19]2)[c:29]2[cH:17][c:32]([F:37])[cH:41][c:33]([F:38])[cH:18]2)[cH:7][cH:22][cH:4][cH:23][cH:8]1", "epd": [["Pi-/Sigma+", [34, 14], [34, 42]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:8][C:18](=[O:6])[N:14]=[CH:7][c:5]1[cH:2][cH:11][cH:13][cH:12][cH:3]1)([CH3:15])([CH3:16])[CH3:17].[N+:4](=[N-:9])=[N-:10]>>[C:1]([O:8][C:18]([O-:6])=[N:14][CH:7]([c:5]1[cH:2][cH:11][cH:13][cH:12][cH:3]1)[N-:9][N+:4]#[N:10])([CH3:15])([CH3:16])[CH3:17]", "epd": [["LP-/Pi+", [10], [4, 10]], ["Pi-/Sigma+", [9, 4], [9, 7]], ["Pi-/Pi+", [7, 14], [14, 18]], ["Pi-/LP+", [18, 6], [6]]]}
